US04731470
2,3-Dichloro-4-(2-methylene-4-chlorobutyryl)anisole
2,3-Dichloro-4-(4-chlorobutyryl)anisole (28.1 g, 0.1 mole), dimethylamine hydrochloride (36.7 g, 0.45 mole) and paraformaldehyde (7.65 g, 0.255 mole) were united and glacial acetic acid (2.6 ml) added. The mixture was stirred and heated on a steam bath under anhydrous conditions for 2 hours. Then the mixture was treated with N,N-dimethylformamide and heating and stirring on a steam bath continued for another 2 hours. The mixture was poured into a mixture of crushed ice and water (800 ml) and extracted with ether.

reactant | 2,3-Dichloro-4-(4-chlorobutyryl)anisole | 0.1 mole, 28.1 g | ClC1=C(C=CC(=C1Cl)C(CCCCl)=O)OC | C11H11Cl3O2
reactant | dimethylamine hydrochloride | 0.45 mole, 36.7 g | Cl.CNC
reactant | paraformaldehyde | 0.255 mole, 7.65 g | C=O | CH2O
reactant | acetic acid | 2.6 ml | C(C)(=O)O | C2H4O2
solvent | water | 800 ml | O | H2O
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 2,3-Dichloro-4-(2-methylene-4-chlorobutyryl)anisole | ClC1=C(C=CC(=C1Cl)C(C(CCCl)=C)=O)OC | C12H11Cl3O2
